US07592358B2
IP 3b. 2,2,2-trifluoro-1-piperidin-4-ylethanone
The product was obtained analogously to IP 2b starting from 900 mg (2.85 mmol) of benzyl 4-(2,2,2-trifluoroacetyl)piperidine-1-carboxylate. Yield: 516 mg (quant. yield); C7H10F3NO (M=181.156); calc.: molpeak (M+H)+: 182; found: molpeak (M+H)+: 182; Rf value: 0.18 (silica gel, EtOAc/MeOH/conc. aqueous ammonia 5:5:0.5).

reactant | benzyl 4-(2,2,2-trifluoroacetyl)piperidine-1-carboxylate | 2.85 mmol, 900 mg | FC(C(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)(F)F | C15H16F3NO3
reactant | ammonia | N | H3N
solvent | EtOAc MeOH | CCOC(=O)C.CO
product | 2,2,2-trifluoro-1-piperidin-4-ylethanone | quant. yield | FC(C(=O)C1CCNCC1)(F)F | C7H10F3NO
